US07582761B2
(a) (3R)-3-Methyl-1-[3-(trifluoromethyl)pyridin-2-yl]piperazine
A mixture of 2-chloro-3-trifluoromethylpyridine (1.45 g, 8 mmol, Aldrich) and (R)-(−)-2-methylpiperazine (1.0 g. 10 mmol, Aldrich) was reacted under the conditions of Example 43a to give the title compound as a off-white solid. MS (ESI, pos. ion) m/z: 246 (M+1).

reactant | 2-chloro-3-trifluoromethylpyridine | 8 mmol, 1.45 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | (R)-(−)-2-methylpiperazine | 10 mmol, 1.0 g | C[C@H]1NCCNC1 | C5H12N2
product | (3R)-3-Methyl-1-[3-(trifluoromethyl)pyridin-2-yl]piperazine | C[C@@H]1CN(CCN1)C1=NC=CC=C1C(F)(F)F | C11H14F3N3
